US08912208B2
A. (6-Bromo-pyridin-3-yl)-(1-methyl-1H-pyrazol-3-yl)-amine
To a solution of 1-methyl-1H-pyrazol-3-ylamine (0.23 g, 2.3 mmol, 1.0 equiv) and 2-bromopyridyl-5-boronic acid (0.70 g, 3.5 mmol, 1.5 equiv) in 10 Ml dichloromethane was added pyridine (0.43 Ml, 5.4 mmol, 2.4 equiv), copper (II) acetate (0.63 g, 3.5 mmol, 1.5 equiv) and 4 Å molecular sieves. The heterogeneous reaction mixture was allowed to stir vigorously open to air overnight. The reaction was then filtered through Celite, concentrated in vacuo, and purified by silica gel chromatography to afford the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 3.80 (s, 3 H) 5.84 (s, 1 H) 7.45 (d, J=8.59 Hz, 1 H) 7.60 (d, J=2.02 Hz,1 H) 7.86 (dd, J=8.59, 3.03 Hz, 1 H) 8.41 (d, J=2.78 Hz, 1 H) 8.92 (s, 1. H); (M+H)+ 255.1.

reactant | 1-methyl-1H-pyrazol-3-ylamine | 2.3 mmol, 0.23 g, 1.0 equiv | CN1N=C(C=C1)N | C4H7N3
reactant | 2-bromopyridyl-5-boronic acid | 3.5 mmol, 0.70 g, 1.5 equiv | B(C1=CN=C(C=C1)Br)(O)O | C5H5BBrNO2
reactant | pyridine | 5.4 mmol, 2.4 equiv | N1=CC=CC=C1 | C5H5N
catalyst | copper (II) acetate | 3.5 mmol, 0.63 g, 1.5 equiv | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | (6-Bromo-pyridin-3-yl)-(1-methyl-1H-pyrazol-3-yl)-amine | BrC1=CC=C(C=N1)NC1=NN(C=C1)C | C9H9BrN4
